US06251936B1
4-[2-Bromo-4-(2,3-dimethyl-naphtho[2,3-b]furan-4-yl)-6-ethyl-phenoxy]-butyric acid methyl ester
A solution of 2-bromo-4-(2,3-dimethyl-naphtho[2,3-b]furan-4-yl)-6-ethyl-phenol (0.30 g, 0.76 mmol), 60% sodium hydride (33 mg, 0.83 mmol), 4-bromobutyric acid, methyl ester (0.44 mL, 3.82 mmol), and anhydrous benzene (1.0 mL) was heated at 100° for 6 h. A second portion of 4-bromobutyric acid methyl ester (0.45 mL, 3.91 mmol) and potassium carbonate (0.5 g, 3.62 mmol) was added and the reaction mixture was heated at 100° for 6 h. The crude reaction mixture was chromatographed with hexane/ethyl acetate to give the title compound as a solid (0.31 g, 82%): NMR (DMSO-d6): δ8.00 (d, J=8 Hz, 1H), 7.98 (s, 1H), 7.48 (d, J=8 Hz, 1H), 7.46 (d, J=2 Hz, 1H), 7.43 (ddd, J=1, 7, 8 Hz, 1H), 7.35 (ddd, J=1, 7, 8 Hz, 1H), 7.26 (d, J=2 Hz, 1H), 4.03 (dd, J=6, 9 Hz, 1H), 3.98 (dd, J=6, 9 Hz, 1H), 3.63 (s, 3H), 2.74 (d of quartets, J=7, 15 Hz, 1H), 2.69 (d of quartets, J=7, 15 Hz, 1H), 2.62 (t, J=7 Hz, 2H), 2.38 (s, 3H), 2.09 (quintet, J=7 Hz, 2H), 1.56 (s, 3H), 1.18 (t, J=7 Hz 3H); MS(EI): [M+], 1 bromine isotope pattern, 494/496.

reactant | 2-bromo-4-(2,3-dimethyl-naphtho[2,3-b]furan-4-yl)-6-ethyl-phenol | 0.76 mmol, 0.30 g | BrC1=C(C(=CC(=C1)C1=C2C=CC=CC2=CC=2OC(=C(C21)C)C)CC)O | C22H19BrO2
reactant | sodium hydride | 0.83 mmol, 33 mg | [H-].[Na+]
reactant | 4-bromobutyric acid, methyl ester | 3.82 mmol, 0.44 mL | BrCCCC(=O)OC | C5H9BrO2
reactant | 4-bromobutyric acid methyl ester | 3.91 mmol, 0.45 mL | COC(CCCBr)=O | C5H9BrO2
reactant | potassium carbonate | 3.62 mmol, 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | 1.0 mL | C1=CC=CC=C1 | C6H6
product | 4-[2-Bromo-4-(2,3-dimethyl-naphtho[2,3-b]furan-4-yl)-6-ethyl-phenoxy]-butyric acid methyl ester | 0.31 g, 82% | COC(CCCOC1=C(C=C(C=C1CC)C1=C2C=CC=CC2=CC=2OC(=C(C21)C)C)Br)=O | C27H27BrO4
